US09403798B2
4-({4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-2-oxo-1,3,5-triazin-1(2H)-yl}methyl)phenyl trifluoromethanesulfonate
To a dichloromethane solution of 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-hydroxybenzyl)-1,3,5-triazin-2(1H)-one (50.0 mg, 0.132 mmol) synthesized in Synthesis Example 483a, N,N-diisopropylethylamine (27.0 μL, 0.158 mmol) was added and while stirring the resultant mixture at 0° C., to the mixture, trifluoromethanesulfonic acid anhydride (23.8 μL, 0.145 mmol) was added, followed by stirring the resultant mixture at room temperature for 1 day. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (chloroform/ethyl acetate=2/1) to obtain the title compound (2.47 mg, yield: 4%).

reactant | 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-hydroxybenzyl)-1,3,5-triazin-2(1H)-one | 0.132 mmol, 50.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)O)=O | C21H19FN4O2
reactant | N,N-diisopropylethylamine | 0.158 mmol, 27.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic acid anhydride | 0.145 mmol, 23.8 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-({4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-2-oxo-1,3,5-triazin-1(2H)-yl}methyl)phenyl trifluoromethanesulfonate | 2.47 mg, yield: 4% | FC(S(=O)(=O)OC1=CC=C(C=C1)CN1C(N=C(N=C1)N1CC=C(CC1)C1=CC=C(C=C1)F)=O)(F)F | C22H18F4N4O4S
